US05595995
b) 2-(4-Pyridyl)propan-2-yl 1-adamantanecarboxylate
The method followed that described in Example 1, but using 2-(4-pyridyl)propan-2-ol (0.69 g, 5.0 mmol) in THF (20 ml), n-butyllithium (2.5 M; 2.0 ml, 5.0 mmol) in hexane, and 1-adamantanecarbonyl chloride (1.09 g, 5.5 mmol) in THF (6 ml). Chromatography, on elution with ether-petrol-triethylamine 50:50:1, gave the title compound (1.06 g, 71%) as an oil. IR νmax 1730 cm-1 ; 1H-NMR (CDCl3) δ1.71 (6H, s, CMe2), 1.71 and 1.90 (12H, 2s, adamantyl CH2), 2.02 (3H, s, adamantyl CH), 7.23 (2H, d, J 6.1 Hz, Py 3 and 5-H), 8.56 (2H, d, J 6.1 Hz, Py 2 and 6-H). Anal. Calcd: C, 76.22; H, 8.42; N, 4.68. Found: C, 76.17; H, 8.47; N, 4.64%.

reactant | 2-(4-pyridyl)propan-2-ol | 5.0 mmol, 0.69 g | N1=CC=C(C=C1)C(C)(C)O | C8H11NO
reactant | n-butyllithium | 5.0 mmol, 2.5 M, 2.0 ml | C(CCC)[Li]
reactant | 1-adamantanecarbonyl chloride | 5.5 mmol, 1.09 g | C12(CC3CC(CC(C1)C3)C2)C(=O)Cl | C11H15ClO
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 6 ml | C1CCOC1 | C4H8O
product | 2-(4-Pyridyl)propan-2-yl 1-adamantanecarboxylate | 1.06 g, 71% | C12(CC3CC(CC(C1)C3)C2)C(=O)OC(C)(C)C2=CC=NC=C2 | C19H25NO2
